US09212182B2
A 40-mL vial was charged with (E)-ethyl 3-(2-amino-5-(benzylthio)phenyl)acrylate (1.2 g, 3.73 mmol) and 3-(3-fluorophenyl)cyclopentanone (665 mg, 3.73 mmol) then purged with nitrogen for 10 min. Methanol (16.0 ml), tetrahydrofuran (4.0 ml), and acetic acid (1.89 ml, 33.0 mmol) were sequentially introduced. Sodium cyanoborohydride (469 mg, 7.46 mmol) was then added in a single portion to the yellow reaction mixture. The vial was sealed with a PTFE line cap and the solution stirred vigorously at ambient temperature. After 16 h, the reaction mixture was heated to 50° C. After 22 h, the reaction mixture was allowed to cool to ambient temperature and carefully poured into a mixture of ice and a saturated aqueous solution of sodium bicarbonate. The mixture was stirred until, it reached ambient temperature then it was diluted with EtOAc (30 mL) and the layers were separated. The aqueous layer was further extracted with EtOAc (3×50 mL). The combined organic layers were washed with saturated aqueous sodium bicarbonate solution (100 mL) and brine (100 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was then purified by flash column chromatography (50-g Biotage column, eluent: gradient, 20 to 70% EtOAc in heptane with CH2Cl2 as a 10% additive) to afford (E)-ethyl 3-(5-(benzylthio)-2-((3-(3-fluorophenyl)cyclopentyl)amino)phenyl)acrylate (812 mg, 1.707 mmol, 45.8% yield) as a yellow solid. m/z (ESI) 476.2 (M+H)+.

reactant | (E)-ethyl 3-(2-amino-5-(benzylthio)phenyl)acrylate | 3.73 mmol, 1.2 g | NC1=C(C=C(C=C1)SCC1=CC=CC=C1)/C=C/C(=O)OCC | C18H19NO2S
reactant | 3-(3-fluorophenyl)cyclopentanone | 3.73 mmol, 665 mg | FC=1C=C(C=CC1)C1CC(CC1)=O | C11H11FO
reactant | acetic acid | 33.0 mmol, 1.89 ml | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 7.46 mmol, 469 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | heptane | CCCCCCC | C7H16
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 4.0 ml | O1CCCC1 | C4H8O
solvent | Methanol | 16.0 ml | CO | CH4O
product | (E)-ethyl 3-(5-(benzylthio)-2-((3-(3-fluorophenyl)cyclopentyl)amino)phenyl)acrylate | 1.707 mmol, 812 mg, 45.8% yield | C(C1=CC=CC=C1)SC=1C=CC(=C(C1)/C=C/C(=O)OCC)NC1CC(CC1)C1=CC(=CC=C1)F | C29H30FNO2S
